US08003651B2
(S)-tert-butyl 3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate was treated with HCl (4M in dioxane, 4 mL) in DCM (20 mL) for 6 hours to provide the (R)-5-methyl-4-((S)-2-methylpiperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (0.18 g, 99%). MS (APCI+) [M+H] +233.

reactant | (S)-tert-butyl 3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | C[C@H]1CN(CCN1C=1C2=C(N=CN1)CC[C@H]2C)C(=O)OC(C)(C)C | C18H28N4O2
reactant | HCl | 4M, 4 mL | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-5-methyl-4-((S)-2-methylpiperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.18 g, 99% | Cl.Cl.C[C@@H]1CCC=2N=CN=C(C21)N2[C@H](CNCC2)C | InChI=1S/C13H20N4.2ClH/c1-9-3-4-11-12(9)13(16-8-15-11)17-6-5-14-7-10(17)2;;/h8-10,14H,3-7H2,1-2H3;2*1H/t9-,10+;;/m1../s1
